US09126998B2
Ethyl 8-(benzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylate
25 g of 2-amino-3-benzyloxypyridine (124.8 mmol, 1 equivalent) were dissolved in 781 ml of ethanol, and 102.7 g of ethyl 2-chloroacetoacetate (624.2 mmol, 5 equivalents) and 15 g of 4 Å molecular sieve were added. The mixture was heated at reflux for 2 d (bath temperature 100° C.). The mixture was then concentrated and excess ethyl 2-chloroacetoacetate was distilled off on a rotary evaporator with dry ice-cooling. The residue was purified by silica gel chromatography (mobile phase cyclohexane:ethyl acetate 9:1, 4:1). This gave 20.81 g of the title compound (54% of theory).

reactant | 2-amino-3-benzyloxypyridine | 124.8 mmol, 25 g, 1 equivalent | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | ethyl 2-chloroacetoacetate | 624.2 mmol, 102.7 g, 5 equivalents | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 781 ml | C(C)O | C2H6O
product | Ethyl 8-(benzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylate | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)C(=O)OCC | C18H18N2O3
